reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]#[C:5][C:6](=[O:4])[H:10])([H:7])([H:8])[H:9],84.37653289692351
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2]1=[N+:5]([N-:6][H:9])[C:4]([H:8])=[N:3]1)[H:7],115.774792451723
[C:1]([C:2]([O+:4]=[C-:3][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],51.6876905672296
[C:1](=[N:2]/[H:9])(\[C:3]([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)([H:8])[H:10])[H:7]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)[H:10],89.54962171579919
[C:1]([c:2]1[c:6]([H:14])[c:5]([H:13])[c:3]([H:11])[c:4]([H:12])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],161.9888579441218
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:18],86.7760870206173
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[O:1]=[C:2]([C:3]#[N+:4][N-:5][H:7])[H:6],90.4852700172863
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([N+:6]#[C-:5])[H:13],114.62047377161998
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[H:13][H:14],73.13765783315141
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:6]([H:12])=[C:5]=[C:4]1[H:11])[H:7],75.302288395448
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[O:6]1)\[H:7]>>[N:1](=[C:2](/[O:6][C:5]([C:4](=[C:3]([H:8])[H:9])[H:11])([H:12])[H:13])[H:10])\[H:7],112.432704199629
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:6](=[C+:5][C:4]#[C-:3])[H:8])[H:7],88.1990019957383
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[N+:7]#[C-:6])([H:8])([H:9])[H:10],60.3320184225558
[C:1]([C@@:2]1([H:12])[C:4]([H:14])([H:15])[O+:5]=[C:6]1[N:7]([C-:3]([H:11])[H:13])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],45.49175336465029
[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:10]>>[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],74.56448352914491
[O:1]=[C:2]([N+:4]#[C-:3])[C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],34.15515378079441
[N+:1]([C:2]([O-:3])=[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])([H:8])([H:9])[H:11]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],30.872946147072902
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[H:8][H:10].[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])[H:7],87.0138122271022
[C:1]([C:2](=[O:3])[O+:5]=[C-:4][N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],17.172056640006808
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3](=[N:2]/[H:11])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:8])([H:9])[H:10],77.9736159318564
[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:9])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],33.2244556673059
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[C:6]([H:18])[H:19])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[H:20],111.895547100513
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([H:12])[H:13]>>[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:12])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:13],81.3692185454096
[C:1]([C@:2]1([O+:7]=[C-:6][H:11])[O:3][C:4]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],11.538071070168499
[C:1](=[C:2]([C:3]([C:4]1([H:13])[C:5]([H:8])=[C:6]1[H:14])([H:11])[H:12])[H:10])([H:7])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],68.0233345855993
[C:1]([C@:2]1([H:11])[C@@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1=[C:6]([H:16])[H:18])([H:8])([H:9])[H:10].[C:7]([H:17])([H:19])([H:20])[H:21]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10],90.7519179409515
